US06180622B2
b) (3R,5S)-1-Allyloxycarbonyl-3-t-butyldimethylsilyloxy-5-[1-hydroxy-1-(imidazo[5,1-b]thiazol-7-yl)methyl]pyrrolidine (stereoisomer A) and ditto (stereoisomer B)
A 2 M methylmagnesium iodide/diethyl ether solution (4.6 ml) is diluted with 50 ml of anhydrous THF, and a solution of 2.0 g of 7-iodoimidazo[5,1-b]thiazole in 50 ml of THF is added dropwise to the diluted solution under ice cooling in an argon atmosphere. The mixture is stirred at that temperature for 10 min and then at room temperature for 1.5 hr and cooled to −50° C., and a solution of 1.735 g of (3R,5S)-1-allyloxycarbonyl-3-t-butyldimethylsilyloxy-5-formylpyrrolidine in 50 ml of THF is added dropwise thereto. A reaction is allowed to proceed while raising the temperature to 10° C. over a period of 3 hr, 200 ml of a semi-saturated aqueous ammonium chloride solution is added thereto, and the mixture is extracted twice with 250 ml of ethyl acetate. The organic layer is dried over anhydrous magnesium sulfate and filtered, and the solvent is removed by evaporation. The residue is purified by column chromatography on silica gel (ethyl acetate alone→ethyl acetate:methanol=20:1→10:1). Thus, 450 mg of (3R,5S)-1-allyloxycarbonyl-3-t-butyldimethylsilyloxy-5-[1-hydroxy-1-(imidazo[5,1-b]thiazol-7-yl)methyl]pyrrolidine (stereoisomer A: a high polar component) and 395 mg of (3R,5S)-1-allyloxycarbonyl-3-t-butyldimethylsilyloxy-5-[l-hydroxy-1-(imidazo[5,1-b]thiazol-7-yl)methyl]pyrrolidine (stereoisomer B: a low polar component) are prepared.

reactant | methylmagnesium iodide diethyl ether | 2 M, 4.6 ml | C[Mg]I.C(C)OCC
reactant | 7-iodoimidazo[5,1-b]thiazole | 2.0 g | IC=1N=CN2C1SC=C2 | C5H3IN2S
reactant | (3R,5S)-1-allyloxycarbonyl-3-t-butyldimethylsilyloxy-5-formylpyrrolidine | 1.735 g | C(C=C)OC(=O)N1C[C@@H](C[C@H]1C=O)O[Si](C)(C)C(C)(C)C | C15H27NO4Si
reactant | ammonium chloride | 200 ml | [Cl-].[NH4+]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | (3R,5S)-1-Allyloxycarbonyl-3-t-butyldimethylsilyloxy-5-[1-hydroxy-1-(imidazo[5,1-b]thiazol-7-yl)methyl]pyrrolidine | C(C=C)OC(=O)N1C[C@@H](C[C@H]1C(C=1N=CN2C1SC=C2)O)O[Si](C)(C)C(C)(C)C | C20H31N3O4SSi
